### PR TITLE
[Merged by Bors] - feat(LpSeminorm/Basic): generalise a few more lemmas to enorms

### PR DESCRIPTION
**Pull request by grunweg**
- For some lemmas, this was as easy as changing the co-domain.
- Weaken a few enorm typeclasses: make shadowing explicit by using named sections.
- For other lemmas, the enorm version requires a new explicit hypothesis (typically, around some constant being non-zero). For those, we add a new enorm version, and golf the existing result in terms of that.

For the Carleson project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
@fpvandoorn This is one of the PRs we talked about earlier today. This should be quick to review: all changes are either
- trivial generalisations (replace \beta by \epsilon)
- copy-paste a lemma about norms, and make very minor modifications for enorms
- generalise typeclass hypotheses (some lemmas are weakened from ENormedAddMonoid to ContinuousENorm)

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 1]
```diff
@@ -143,6 +143,9 @@ theorem eLpNorm'_measure_zero_of_exponent_zero {f : α → ε} : eLpNorm' f 0 (0
 theorem eLpNorm'_measure_zero_of_neg {f : α → ε} (hq_neg : q < 0) :
     eLpNorm' f q (0 : Measure α) = ∞ := by simp [eLpNorm', hq_neg]
 
+omit [ENormedAddMonoid ε]
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:146]: Can you put this variable in a `section`, we're trying to move away from the `omit` style (unless it's `omit ... in`).

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 2]
```diff
@@ -275,6 +313,13 @@ theorem memLp_const_iff {p : ℝ≥0∞} {c : E} (hp_ne_zero : p ≠ 0) (hp_ne_t
   rw [← eLpNorm_const_lt_top_iff hp_ne_zero hp_ne_top]
   exact ⟨fun h => h.2, fun h => ⟨aestronglyMeasurable_const, h⟩⟩
 
+variable {ε' : Type*} [TopologicalSpace ε'] [ENormedAddMonoid ε'] in
+theorem memLp_const_iff_enorm
+    {p : ℝ≥0∞} {c : ε'} (hc : ‖c‖ₑ ≠ ⊤) (hp_ne_zero : p ≠ 0) (hp_ne_top : p ≠ ∞) :
+    MemLp (fun _ : α ↦ c) p μ ↔ μ Set.univ = 0 ∨ (c = 0 ∨ μ Set.univ < ∞) := by
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:319]:
```suggestion
    MemLp (fun _ : α ↦ c) p μ ↔ c = 0 ∨ μ Set.univ < ∞ := by
```
is equivalent, right?

**Review by fpvandoorn — COMMENTED** [review]
Two global comments:

* For the new `enorm`-results: move them above the `NormedAddCommGroup` results and prove the existing results as a corollary.
* Optional: the amount of times you declare `ε` shadowing the previous variable is not so nice. Maybe reorder lemmas so that results with weaker typeclasses come first?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:146]: Sure, done!

**Review by grunweg — COMMENTED** [review]
I just pushed two commits cleaning up the shadowing a little - more to come.

**Comment by grunweg** [comment]
Thanks for the review feedback! I have addressed all comments.

**Comment by fpvandoorn** [comment]
bors merge
